US07060827B2
In like manner to the preparation of (±)-N4-(3,4-difluorophenyl)-5-fluoro-N2-[2-(N-methylamino)carbonyl-2,3-dihydrobenzofuran-5-yl]-2,4-pyrimidinediamine, the reaction of methyl amine Hydrogen Chloride with (±)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-N4-(3-trifluoromethoxyphenyl)-2,4-pyrimidinediamine gave (±)-N2-[2,3-dihydro-(N-methylamino)carbonylbenzofuran-5-yl]-5-fluoro-N4-(3-trifluoromethoxyphenyl)-2,4-pyrimidinediamine. LCMS: purity: 94%; MS (m/e): 464 (MH+).

reactant | methyl amine Hydrogen Chloride | Cl.CN
reactant | (±)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-N4-(3-trifluoromethoxyphenyl)-2,4-pyrimidinediamine | COC(=O)C1OC2=C(C1)C=C(C=C2)NC2=NC=C(C(=N2)NC2=CC(=CC=C2)OC(F)(F)F)F | C21H16F4N4O4
product | (±)-N2-[2,3-dihydro-(N-methylamino)carbonylbenzofuran-5-yl]-5-fluoro-N4-(3-trifluoromethoxyphenyl)-2,4-pyrimidinediamine | CNC(=O)C1OC2=C(C1)C=C(C=C2)NC2=NC=C(C(=N2)NC2=CC(=CC=C2)OC(F)(F)F)F | C21H17F4N5O3
